US04824472
To a stirred solution of methyl N-(decahydro-1-naphthalenyl)-N-formylglycine in 900 parts of tetrahydrofuran and 127 parts of methyl formate were added suitable amounts of sodium hydride. After stirring for 18 hours at room temperature, 350 parts of deionisized water and 1.4 parts of 1,1'-oxybisethane were added to the mixture. The separated aqueous layer was acidified with 132.7 parts of concentrated hydrochloric acid and 280 parts of methanol were added. The whole was heated to 40°-50° C. and treated with a solution of 92.7 parts of potassium thiocyanate in 200 parts of deionisized water. The whole was stirred for 22 hours at room temperature. The precipitated product was filtered off and crystallized from methanol. The product was filtered off and dried, yielding methyl 2-mercapto-N-(decahydro-1-naphthalenyl)-1H-imidazole-5-carboxylate; mp. 179°-181° C. (compound 1.15).

reactant | methyl N-(decahydro-1-naphthalenyl)-N-formylglycine | CC(N(C=O)C1CCCC2CCCCC12)C(=O)O | C14H23NO3
reactant | methyl formate | C(=O)OC | C2H4O2
reactant | sodium hydride | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | potassium thiocyanate | [S-]C#N.[K+]
solvent | water | O | H2O
solvent | methanol | CO | CH4O
solvent | 1,1'-oxybisethane | O(CC)CC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | methyl 2-mercapto-N-(decahydro-1-naphthalenyl)-1H-imidazole-5-carboxylate | SC=1N(C(=CN1)C(=O)OC)C1CCCC2CCCCC12 | C15H22N2O2S
